US07741327B2
Dry hydrochloric acid gas was bubbled through a mixture of (S)-2-amino-pentanoic acid (1.00 g, 8.53 mmol) in methanol cooled to 0° C. for 5 min. The vessel was sealed and the mixture heated to 50° C. overnight. The mixture was cooled, the solvent removed and the residue treated with methanol (repeated 3×). The residue was triturated with diethyl ether, dried under high vacuum to yield (S)-2-amino-pentanoic acid methyl ester hydrochloride (1.21 g, 85%) as a light yellow solid: 1H NMR (300 MHz, DMSO-d6) δ ppm 0.87 (t, J=6.9 Hz, 3H), 1.12-1.51 (m, 2H), 1.76 (m, J=6.0 Hz, 2H), 3.74 (s, 3H), 3.98 (t, J=6.0 Hz, 1H), 8.59 (br. s., 3H).

reactant | hydrochloric acid | Cl | ClH
reactant | (S)-2-amino-pentanoic acid | 8.53 mmol, 1.00 g | N[C@H](C(=O)O)CCC | C5H11NO2
reactant | methanol | CO | CH4O
product | (S)-2-amino-pentanoic acid methyl ester hydrochloride | 1.21 g, 85% | Cl.COC([C@H](CCC)N)=O | InChI=1S/C6H13NO2.ClH/c1-3-4-5(7)6(8)9-2;/h5H,3-4,7H2,1-2H3;1H/t5-;/m0./s1
